US07662402B2
3.2 g of 2-(3,3,3-trifluoropropyl)malononitrile and 2.1 g of methyl vinyl ketone were dissolved in 30 ml of acetone, 3.3 g of potassium carbonate was added, and the mixture was stirred at room temperature for 4 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.7 g of 2-(3,3,3-trifluoropropyl)-2-(3-oxobutyl)malononitrile.

reactant | 2-(3,3,3-trifluoropropyl)malononitrile | 3.2 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | methyl vinyl ketone | 2.1 g | C(=C)C(=O)C | C4H6O
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(3,3,3-trifluoropropyl)-2-(3-oxobutyl)malononitrile | 0.7 g | FC(CCC(C#N)(C#N)CCC(C)=O)(F)F | C10H11F3N2O
